US07923456B2
Step 6: 6-Aminomethyl-2-chloro-nicotinic acid methyl ester
To a solution of 6-azidomethyl-2-chloro-nicotinic acid methyl ester (4.75 g, 21 mmol) in THF (189 mL) and water (3.6 mL) was added triphenylphosphine (11 g, 42 mmol), the reaction mixture was heated at 45° C. for 16 hours. The reaction mixture was concentrated under reduced pressure and the residue azeotroped with methanol. The resultant residue was subjected to flash chromatography (Si-PPC, gradient 0% to 10%, methanol in dichloromethane) to afford the title compound as a yellow solid. LCMS (method B): RT=2.65 min, [M+H]+=201.

reactant | 6-azidomethyl-2-chloro-nicotinic acid methyl ester | 21 mmol, 4.75 g | COC(C1=C(N=C(C=C1)CN=[N+]=[N-])Cl)=O | C8H7ClN4O2
reactant | triphenylphosphine | 42 mmol, 11 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 189 mL | C1CCOC1 | C4H8O
solvent | water | 3.6 mL | O | H2O
product | 6-Aminomethyl-2-chloro-nicotinic acid methyl ester | COC(C1=C(N=C(C=C1)CN)Cl)=O | C8H9ClN2O2
